US07652049B2
Sodium bis(trimethylsilyl)amide (114 μL of a 1M solution in THF, 0.114 mmol) was added to a stirred solution of 4-phenylpyrrolidin-2-one (Winans, C. F., Adkins, H., J. Am. Chem. Soc., 1933, 55, 4167-4176) (17 mg, 0.103 mmol) in dry THF (1 mL) at room temperature under N2. The reaction was stirred for 5 min and a solution of 2-(bromomethyl)-5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl (20 mg, 0.0516 mmol) in dry THF (2 mL) was added by cannula. The reaction was stirred at room temperature for 3 days. The reaction was quenched with saturated NH4Cl (10 mL) and extracted with EtOAc (3×20 mL). The combined organic extracts were washed with brine (10 mL), dried (Na2SO4) and concentrated in vacuo to give the crude product. This was purified by flash chromatography (Si, 12×160 mm, 0-90% EtOAc in hexanes gradient) to afford 1-{[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}-4-phenylpyrrolidin-2-one as a colorless oil. Rf=0.11 (20% EtOAc/hexanes). LCMS calc.=468.22; found=468.2 (M+1)+. 1H NMR (600 MHz, benzene-d6, 1:1 mixture of atropisomers) δ 7.79 (s, 0.5H), 7.73 (s, 0.5H), 7.33 (d, J=7.7 Hz, 1H), 7.08-7.04 (m, 4H), 6.99 (m, 1H), 6.92 (s, 0.5H), 6.88 (s, 0.5H), 6.76 (dd, J=16.0, 7.4 Hz, 2H), 6.60 (dd, J=8.5, 3.1 Hz, 1H), 4.58 (d, J=15.4 Hz, 1H), 4.38 (t, J=13.9 Hz, 1H), 3.29 (s, 1.5H), 3.26 (s, 1.5H), 2.85-2.73 (m, 3H), 2.63-2.57 (m, 1H), 2.38-2.28 (m, 1H), 2.21-2.11 (m, 1H), 1.20-1.16 (m, 6H).

reactant | Sodium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 4-phenylpyrrolidin-2-one | 0.103 mmol, 17 mg | C1(=CC=CC=C1)C1CC(NC1)=O | C10H11NO
reactant | 2-(bromomethyl)-5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl | 0.0516 mmol, 20 mg | BrCC1=C(C=CC(=C1)C(F)(F)F)C1=C(C=CC(=C1)C(C)C)OC | C18H18BrF3O
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 1-{[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}-4-phenylpyrrolidin-2-one | C(C)(C)C=1C=CC(=C(C1)C1=C(C=C(C=C1)C(F)(F)F)CN1C(CC(C1)C1=CC=CC=C1)=O)OC | C28H28F3NO2
